US07419984B2
6-[5-Bromo-2-(2-morpholin4-yl-ethoxy)-phenyl]-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 4, 4-[5-bromo-2-(2-morpholin-4-yl-ethoxy)-phenyl)-6-chloro-pyrimidin-2-ylamine and 4-chloro-phenylamine provided the title compound (83% yield). 1H NMR (CDCl3) δ 2.47 (m, 4H, 2CH2), 2.68 (t, 2H, J=5.6 Hz, CH2), 3.67 (m, 4H, 2CH2), 4.09 (t, 2H, J=5.7 Hz, CH2), 4.95 (s, 2H, NH2), 6.72-6.84 (m, 3H, Ar), 7.28-7.33 (m, 2H, Ar), 7.42-7.45 (m, 1H, Ar), 7.99 (s, 1H, Ar).

reactant | 4-[5-bromo-2-(2-morpholin-4-yl-ethoxy)-phenyl)-6-chloro-pyrimidin-2-ylamine | BrC=1C=CC(=C(C1)C1=NC(=NC(=C1)Cl)N)OCCN1CCOCC1 | C16H18BrClN4O2
reactant | 4-chloro-phenylamine | ClC1=CC=C(C=C1)N | C6H6ClN
product | 6-[5-Bromo-2-(2-morpholin4-yl-ethoxy)-phenyl]-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | 83% yield | BrC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Cl)OCCN1CCOCC1 | C22H23BrClN5O2
